US06355803B1
Synthesis of N-[3-(1,3-dioxolyl)phenyl]isatin
Isatin (3.2 g, 0.0218 mol) was dissolved in anhydrous DMF (75 mL) and cooled in an ice-bath under a nitrogen atmosphere. To this cold solution, sodium hydride (0.575 g, 0.0239 mol) was added and the reaction was stirred at 0° C. for 1.5 hours. This solution was then treated with 2-(3-bromophenyl)-1,3-dioxolane (5 g, 1 equivalent) followed by CuI (8.3 g, 2 equivalents). The resulting suspension was heated in an oil-bath under nitrogen at 130-140° C. for 16 hours. It was then cooled to room temperature and diluted with an equal volume of chloroform. This suspension was filtered and the filtrate was concentrated under reduced pressure. A viscous brown oil was recovered which was suspended in xylenes (150 mL) wand evaporated to dryness. The residue was used as such for the next reaction. TLC (5% methanol in chloroform) showed clean conversion; Rf (product)=0.86.

reactant | Isatin | 0.0218 mol, 3.2 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | sodium hydride | 0.0239 mol, 0.575 g | [H-].[Na+]
reactant | 2-(3-bromophenyl)-1,3-dioxolane | 5 g, 1 equivalent | BrC=1C=C(C=CC1)C1OCCO1 | C9H9BrO2
reactant | methanol | CO | CH4O
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | CuI | 8.3 g, 2 equivalents | [Cu]I
product | N-[3-(1,3-dioxolyl)phenyl]isatin | O1C(OC=C1)C=1C=C(C=CC1)N1C(=O)C(=O)C2=CC=CC=C12 | C17H11NO4
